US04104280
A solution of 250 mg. of 10,11-dihydrodibenzo[b.f]thiepin-2-acetic acid in 30 ml. of isoamyl alcohol is saturated with hydrogen chloride. After 90 minutes, the excess alcohol is distilled off under reduced pressure to yield isoamyl 10,11-dihydrodibenzo[b.f]thiepin-2-acetate, which can be further purified by thin layer chromatography.

reactant | 10,11-dihydrodibenzo[b.f]thiepin-2-acetic acid | C1=C(C=CC=2SC3=C(CCC21)C=CC=C3)CC(=O)O | C16H14O2S
reactant | hydrogen chloride | Cl | ClH
solvent | isoamyl alcohol | C(CC(C)C)O | C5H12O
product | isoamyl 10,11-dihydrodibenzo[b.f]thiepin-2-acetate | C1=C(C=CC=2SC3=C(CCC21)C=CC=C3)CC(=O)OCCC(C)C | C21H24O2S
